reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](\[C:3]([O:4][H:14])([H:12])[H:13])(=[N:5]\[C:6](=[O:7])[H:16])[H:11],96.019181540798
[C:1](=[C:2]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])[H:9].[O:3]([H:8])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],54.4980064551349
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([C:2]1=[N:6][C:5]([H:9])([H:10])[N:4]=[N:3]1)([H:7])[H:8],48.4756272194697
[C:1](=[C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:7])[H:8].[H:6][H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],78.71854268305749
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:4]([O:5][H:10])[N:6]([H:14])[H:15],78.5148148384664
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@:2]([N:3]=[O:4])([C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],77.2594951011497
[C:1]([C:2](=[C:4]=[C:5]([O:3][H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],69.07128244904061
[C:1]([N:2]=[C:3]([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:11])[H:15])([H:13])[H:14]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],46.57338989162451
[O+:1](=[C-:2][C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],24.900156842115905
[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8]>>[C:1]([O+:2]=[C-:3][N:5]([C:4]([H:9])([H:10])[H:11])[H:12])([H:6])([H:7])[H:8],65.7838431387458
[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[C:5](\[O:6][H:16])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],77.76705467960701
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([H:6])[H:7].[O:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])[H:8],87.37924596777941
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7],90.2960479899094
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9].[C:2](=[C:3]=[O:4])([H:10])[H:11],113.28777700155399
[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:9])[H:11])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6],83.40220849876394
[N:1]#[C:2][C@@:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([O:6][H:8])[H:7]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,96.17966210486836
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][H:14])([O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([H:16])([H:17])[H:18])[H:15],116.39188393742701
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][C:6](=[O:7])[H:13].[H:8][H:12],85.96580954704821
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1](=[O:2])([H:8])[H:9].[C:5](#[N:6])[H:7],78.35628333792029
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:6][C:5]([H:14])=[C:4]1[H:13])([H:7])([H:8])[H:9],55.1495445946579
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([N+:6]#[C-:5])([H:9])[H:10])[H:8])[H:7],54.8699154092426
[N:1]([C:2]12[O:3][C:5]([H:10])([N:4]1[H:9])[N:6]2[H:11])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],9.803015572737195
[C:1]([O:2][C:3]([O:4][C:6](=[O:7])[H:13])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.7606152609477
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]1[C:2]([H:7])([H:8])[C@@:3]12[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]2,58.00086465106551
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:13])[O:4][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:12],116.727651223998
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N+:4](=[C-:5][O:6][H:11])[H:10])([H:7])([H:8])[H:9],77.2941948172929
